US04954498
8,8-Dimethyl-2-hydroxy-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one
2 g. (9.7 mmole) 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2-one (see Example 13 a)) were dissolved in 50 ml. 2N hydrochloric acid and phosgene passed in for 1 hour. The evaporation residue was recrystallised from methanol to give 1.6 g. (72% of theory) of the title compound; m.p. >300° C.

reactant | 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2-one | 9.7 mmole | CC1(CC(NC2=CC(=C(C=C12)N)N)=O)C | C11H15N3O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 8,8-Dimethyl-2-hydroxy-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)O)=O)C | C12H13N3O2
